Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lisinopril / Feldene / Keflex
 
Attending: ___.
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y.o.f. with peripheral neuropathy, constipation, and 
metastatic breast cancer to the liver who received C2D8 of 
navelbine/avastin on ___, although the navelbine was held 
d/t neutropenia, who presents with diarrhea for 4 days PTA. The 
patient has had issues with chronic constipation that has 
worsened on new chemotherapy, and she was taking senna daily. 
She added miralax to this on ___ and then added MOM to this on 
___ so that she was taking 3 agent for constipation. She then 
developed loose stool on ___ and ___ BMs by ___ that 
continued ___ and today. She stopped the stool medications 
yesterday. + chills, no fevers to her knowledge. Stool is brown, 
no melena, no hematochezia. Mild stomach cramping, not 
associated with food. No nausea or emesis. Unable to keep up 
with POs due to lack of appetite. No LH, dizziness. . Two days 
of lethargy.
.
In the ED, vitals 97.7, 133, 152/84, 20, 100% RA. Received 1L NS 
and oral potassium. UA sent but contaminated. BCX, UCX sent.
 
Past Medical History:
Metastatic breast cancer - ER/PR positive, HER-2/neu negative 
involving the liver. She was initially diagnosed with a T1c N0 
cancer, found to be recurret in ___ involving the 
liver. She is status post 4 cycles of single agent Taxotere, 
which she completed on ___. She had disease progression 
involving her liver and therefore she was initiated on Navelbine 
combined with Avastin on ___, and she has completed two 
cycles of therapy.
# Peripheral neuropathy
# Constipation
# right thyroid lobectomy performed ___ by Dr. ___ 
___ a follicular adenoma
# Hypercholesteremia
# GERD
# CAD ___ cardiac cath with subtotal stenosis of the 
proximal LAD with subsequent angioplasty and stent placement. 
The patient had a normal MIBI on ___.
# SVT
 
Social History:
___
Family History:
The patient's maternal aunt had breast cancer in her ___ or 
___ and died of this. Mother developed colon cancer at the age 
of ___
 
Physical Exam:
VITAL SIGNS: 97.3, 150/80, 80, 16, 97% RA.
GENERAL: Pleasant, NAD, easily arousable.
HEENT: Bald, anicteric sclerae. EOMI. OP clear, MM dry,
NECK: Supple without any cervical or supraclavicular adenopathy.
Left sided port site appears to be clean, dry, and intact.
CARDIAC: Regular rate, S1, S2, no murmurs, rubs, or gallops.
LUNGS: CTAB, no W/R/C.
ABDOMEN: Soft, nontender, nondistended. + BS.
EXTREMITIES: No C/C/E
 
Pertinent Results:
___ 06:24AM BLOOD WBC-3.5* RBC-3.45* Hgb-9.3* Hct-29.4* 
MCV-85 MCH-26.9* MCHC-31.6 RDW-20.6* Plt ___
___ 02:00PM BLOOD WBC-2.7* RBC-3.90* Hgb-10.3* Hct-31.8* 
MCV-81* MCH-26.4* MCHC-32.4 RDW-22.2* Plt ___
___ 06:25AM BLOOD ___ PTT-28.1 ___
___ 06:24AM BLOOD UreaN-15 Creat-0.6 Na-140 K-3.9 Cl-107 
HCO3-26 AnGap-11
___ 02:00PM BLOOD Glucose-140* UreaN-13 Creat-0.7 Na-141 
K-3.1* Cl-105 HCO3-27 AnGap-12
___ 06:25AM BLOOD CK(CPK)-71
___ 02:00PM BLOOD ALT-28 AST-57* AlkPhos-77 TotBili-1.1
___ 06:24AM BLOOD Mg-1.9
___ 07:50AM BLOOD Lactate-2.4*
___ 02:03PM BLOOD Lactate-3.4*
___ 04:00PM URINE Color-Straw Appear-Clear Sp ___
___ 04:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-TR
___ 04:00PM URINE ___ Bacteri-OCC Yeast-NONE 
___

___ 3:47 am SWAB     Site: RECTAL      Source: Rectal swab. 


   VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS (Preliminary): 
      No Virus isolated so far. 

___ 5:08 pm STOOL     CONSISTENCY: WATERY      Source: 
Stool. 

                            **FINAL REPORT ___

   CLOSTRIDIUM DIFFICILE TOXIN ASSAY (Final ___: 
      FECES NEGATIVE FOR C. DIFFICILE TOXIN BY EIA. 
           (Reference Range-Negative). 

Blood culture negative at time of discharge. Urine culture - 
contaminated. 

PA AND LATERAL VIEWS OF THE CHEST.

INDICATION: ___ female with metastatic breast cancer to 
the liver, presenting with weakness, diarrhea. Assess for 
infiltrate.

COMPARISONS: CT dated ___.

FINDINGS: The left-sided central venous port is in place with 
tip at the cavoatrial junction. The cardiomediastinal silhouette 
is stable. A small right pleural effusion appears unchanged 
compared to the CT examination of ___. The lungs are clear, 
without focal evidence of consolidation. There are mild 
degenerative changes involving the right acromioclavicular 
joint. A few hyperdense foci project over the right upper 
quadrant of the abdomen and likely correlate to gallstones seen 
on the previous CT examination. The soft tissues and osseous 
structures are otherwise grossly unremarkable.

IMPRESSION: Stable small right pleural effusion compared to CT 
of ___. No acute cardiopulmonary process.

Cardiology ReportECGStudy Date of ___  8:04:40 ___
 
Ectopic atrial tachycardia. Compared to the previous tracing of 
___ the
ischemic appearing anterior ST segment changes have improved. 
Otherwise,
no diagnostic interim change.
TRACING #2

Cardiology ReportECGStudy Date of ___  2:35:00 ___
 
Ectopic atrial tachycardia is new as compared with prior tracing 
of ___.
Atrial ectopy is no longer recorded and there are new ischemic 
appearing
ST segment changes in leads V2-V4 in the context of increase in 
rate and
change in atrial morphology. Followup and clinical correlation 
are suggested.
TRACING #___iarrhea from laxatives likely. Infectious work up negative. 
Diarrhea resolved on day 2 of admission. 
Hypovolemia - resolved with IV fluids. 

H/o supra ventricular tachycardia, ectopy - noted on telemetry. 
Known history of SVT and patient followed by Dr ___ 
cardiology. 

History of metastatic breast cancer - follow up with Dr ___ 
___ ongoing chemotherapy. 

History of hypertension - well controlled on home regimen. 

Neutropenia - likely from chemotherapy. Stable. Patient 
afebrile. 

Anemia - stable. 
 
Medications on Admission:
Amlodipine 5 mg daily
HCTZ 25 mg daily
Metoprolol 50 mg BID
Morphine SR 7.5 mg QAM, 15 mg QPM
Protonix 40 mg daily
Compazine 10 mg PO Q8H prn
Aspirin 81 mg PO daily
MOM prn
___ TID
Miralax
 
Discharge Medications:
1. Morphine 15 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO QHS (once a day (at bedtime)).  
2. Morphine 15 mg Tablet Sustained Release Sig: 0.5 Tablet 
Sustained Release PO QAM (once a day (in the morning)).  
3. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
7. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
8. Compazine 10 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea.  
9. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day.
Disp:*60 Capsule(s)* Refills:*0*
10. Senna 8.6 mg Tablet Sig: One (1) Tablet PO at bedtime.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diarrhea from laxatives
Hypovolemia
H/o supra ventricular tachycardia, ectopy
History of metastatic breast cancer
History of hypertension 
Neutropenia
Anemia

 
Discharge Condition:
stable

 
Discharge Instructions:
Return to the hospital if you have new diarhea, abdominal pain 
pr any other symptoms of concern to you. 

Keep your appointments. 

You had diarrhea likely from the laxative. No soucce of 
infection was found. 

If you get constipatied, use medications as prescribed with prn 
use meds. Discuss this further with your primary care doctor. 

Your heart rate increased with walking. Please discuss this as 
well with your primary care doctor. 
 
Followup Instructions:
___